US08183381B2
Step 4: 5-Ethyl-2-(4-(4-((2-fluoro-4-(1H-tetrazol-1-yl)phenoxy)methyl)-5-(trifluoromethyl)-1H-pyrazol-1-yl)piperidin-1-yl)pyrimidine
The title compound was synthesized using 2-(4-(4-(chloromethyl)-5-(trifluoromethyl)-1H-pyrazol-1-yl)piperidin-1-yl)-5-ethylpyrimidine and 2-fluoro-4-(1H-tetrazol-1-yl)phenol in manner similar to that described in Example 1. 1H NMR (CDCl3): δ 8.95 (1H, s), 8.18 (2H, s), 7.64 (1H, s), 7.52 (1H, m), 7.43 (1H, m), 7.19 (1H, m), 5.16 (2H, s), 4.92 (2H, m), 4.50 (1H, m), 3.02 (2H, m), 2.47 (2H, q), 2.22 (2H, m), 2.01 (2H, m), 1.19 (3H, t).

reactant | 2-(4-(4-(chloromethyl)-5-(trifluoromethyl)-1H-pyrazol-1-yl)piperidin-1-yl)-5-ethylpyrimidine | ClCC=1C=NN(C1C(F)(F)F)C1CCN(CC1)C1=NC=C(C=N1)CC | C16H19ClF3N5
reactant | 2-fluoro-4-(1H-tetrazol-1-yl)phenol | FC1=C(C=CC(=C1)N1N=NN=C1)O | C7H5FN4O
product | 5-Ethyl-2-(4-(4-((2-fluoro-4-(1H-tetrazol-1-yl)phenoxy)methyl)-5-(trifluoromethyl)-1H-pyrazol-1-yl)piperidin-1-yl)pyrimidine | C(C)C=1C=NC(=NC1)N1CCC(CC1)N1N=CC(=C1C(F)(F)F)COC1=C(C=C(C=C1)N1N=NN=C1)F | C23H23F4N9O
